US06358985B1
Step A: Preparation of ethyl 2-(3′-methoxyphenyl)benzoate
To a stirred solution of ethyl 2-bromobenzoate (13.7 g, 59.8 mmol) and tetrakis(triphenylphosphine)palladium(0) (3.46 g, 3.0 mmol) in 1,2-dimethoxyethane (600 mL) was added 2 M aq. Na2CO3 (60 mL, deoxygenated). 3-Methoxyphenylboronic acid (10.0 g, 65.8 mmol) was added in 1,2-dimethoxyethane (80 mL) and the mixture was heated to 100° C. for 36 hours, under argon atmosphere. The mixture was cooled, diluted with water (1 L) and extracted with EtOAc (2×800 mL). The combined organic extracts were washed with sat. aq. NaHCO3, then brine, then dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by flash column chromatography, eluting with a gradient of 0-10% EtOAc in hexane, to give the titled product as a colorless oil.

reactant | ethyl 2-bromobenzoate | 59.8 mmol, 13.7 g | BrC1=C(C(=O)OCC)C=CC=C1 | C9H9BrO2
reactant | Na2CO3 | 2 M, 60 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-Methoxyphenylboronic acid | 65.8 mmol, 10.0 g | COC=1C=C(C=CC1)B(O)O | C7H9BO3
solvent | 1,2-dimethoxyethane | 600 mL | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 80 mL | COCCOC | C4H10O2
solvent | water | 1 L | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 3.0 mmol, 3.46 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 2-(3′-methoxyphenyl)benzoate | COC=1C=C(C=CC1)C1=C(C(=O)OCC)C=CC=C1 | C16H16O3
